US08012998B2
c) (3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide
To a suspension of N,O-dimethylhydroxylamine hydrochloride (7.82 g, 80.6 mmol) in DCM (130 mL) at RT was added trimethylaluminium (2.0M solution in heptane, 40.3 ml, 80.6 mmol) dropwise and stirring was continued for one hour. To this mixture was added a solution of (S)-4-benzyl-3-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbonyl]-oxazolidin-2-one (19.2 g, 40.3 mmol) in DCM (100 mL) over 10 minutes. Stirring was continued for three hours. The reaction was quenched by an addition of aq. Potassium sodium tartarate solution and extracted with ethyl acetate. The separated organic layer was washed with brine and dried on Na2SO4 and concentrated under vacuo. Its purification by column chromatography (SiO2, EtOAc/H, 15:85) yielded 13 g (90%) of the title compound as a light yellow oil. ES-MS m/e: 361.2 (M+H+).

reactant | N,O-dimethylhydroxylamine hydrochloride | 80.6 mmol, 7.82 g | Cl.CNOC
reactant | trimethylaluminium | 80.6 mmol, 2.0M, 40.3 ml | C[Al](C)C
reactant | (S)-4-benzyl-3-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbonyl]-oxazolidin-2-one | 40.3 mmol, 19.2 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)F)F)CC1=CC=CC=C1 | C28H26F2N2O3
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 13 g, 90% | CON(C(=O)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)F)F)CC1=CC=CC=C1)C | C20H22F2N2O2
